US06897224B2
2-(Acetoxymethyl)-5-nitroquinoline
A solution that consists of 390 mg (1.91 mmol) of 2-(hydroxymethyl)-5-nitroquinoline and 2.5 ml of acetic acid anhydride in 5.0 ml of pyridine is allowed to stir for 24 hours at room temperature. After repeated co-evaporation with toluene and subsequent chromatography on silica gel with hexane-ethyl acetate (0-100%), 410 mg (87% of theory) of the product is obtained.

reactant | 2-(hydroxymethyl)-5-nitroquinoline | 1.91 mmol, 390 mg | OCC1=NC2=CC=CC(=C2C=C1)[N+](=O)[O-] | C10H8N2O3
reactant | acetic acid anhydride | 2.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | pyridine | 5.0 ml | N1=CC=CC=C1 | C5H5N
product | 2-(Acetoxymethyl)-5-nitroquinoline | C(C)(=O)OCC1=NC2=CC=CC(=C2C=C1)[N+](=O)[O-] | C12H10N2O4
